US06358980B1
4-(4-But-2-ynyloxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-4-piperidine carboxylic acid was prepared following the procedure of Example 64 (step 5). Starting from Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-4-piperidinecarboxylate (430 mg, 0.94 mmol) in 8 ml of tetrahydrofuran:methanol (1:1), and 1N sodium hydroxide (1.89 ml, 1.89 mmol) to obtain 235 mg (57%) of the acid. HR-MS: m/z Calculated for C22H22N2O6S 443.1271; Found 443.1270.

reactant | Methyl 4-(4-but-2-ynyloxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-4-piperidinecarboxylate | 0.94 mmol, 430 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1C=NC=CC1)C(=O)OC | C23H24N2O6S
reactant | sodium hydroxide | 1.89 mmol, 1N, 1.89 ml | [OH-].[Na+]
solvent | tetrahydrofuran methanol | 8 ml | O1CCCC1.CO
product | 4-(4-But-2-ynyloxybenzenesulfonyl)-1-(3-pyridinylcarbonyl)-4-piperidine carboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)C=1C=NC=CC1)C(=O)O | C22H22N2O6S
